US06528510B1
6-tert-Butyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
6-tert-Butyl indole-1-carboxylic acid tert-butyl ester (prepared in Example GG; 13.0 g, 48 mmol) was taken up in 500 mL of AcOH. 20% Pd/C (2 g) was added, and the mixture was shaken under a hydrogen atmosphere of 50 psi. The catalyst was filtered, and the filtrate was concentrated. The residue was dissolved in EtOAc, washed with saturated NaHCO3 solution and brine, and dried (MgSO4). Concentration gave the title compound which was used without purification in the next step.

reactant | 6-tert-Butyl indole-1-carboxylic acid tert-butyl ester | 48 mmol, 13.0 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)C(C)(C)C | C17H23NO2
solvent | AcOH | 500 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 6-tert-Butyl-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)C(C)(C)C | C17H25NO2
